US07935830B2
Step B. 5-Methoxy-6-chloro-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole
Barium hydroxide octahydrate (0.63 g, 2.0 mmol) was added to a solution of N-ethylcarbamate-5-methoxy-6-chloro-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole (61 mg, 0.2 mmol) in MeOH (4 mL), and stirred for 24 hours at reflux. The reaction mixture was cooled to room temperature and neutralized to pH=7 with aqueous HCl (50 mL, 1 M). The product was extracted with CH2Cl2, dried over MgSO4, and concentrated. The crude product was purified by reverse-phase liquid chromatography to afford the title compound. MS calculated for C13H16ClNO+H: 238, observed: 238.

reactant | Barium hydroxide octahydrate | 2.0 mmol, 0.63 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | N-ethylcarbamate 5-methoxy-6-chloro-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole | 0.2 mmol, 61 mg | C(C)NC([O-])=O.COC=1C(=CC=2C(C3C(CNC3)C2C1)C)Cl
reactant | HCl | 1 M, 50 mL | Cl | ClH
solvent | MeOH | 4 mL | CO | CH4O
product | 5-Methoxy-6-chloro-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole | COC=1C(=CC=2C(C3C(CNC3)C2C1)C)Cl | C13H16ClNO
